US05840900
Referring now to FIG. 12, a mixture of Sarcosine (5 g, 56.13 mmol), Boc anhydride (14.7 g, 67.35 m.mol) and sodium hydroxide (4.5 g, 112.26 m.mol) in water (25 mL) was stirred at room temperature for 18 hours. The reaction mixture was cooled to 0° C. and was acidified to pH 3 with 6N HCl and extracted with ethyl acetate. Evaporation of the solvent gave Boc Sarcosine, 39, as a clear oil. 1H NMR (CDCl3)δ 4.58(m), 3.0(s)4.0(m).

reactant | Sarcosine | 56.13 mmol, 5 g | N(C)CC(=O)O | C3H7NO2
reactant | Boc anhydride | 14.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 4.5 g | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | water | 25 mL | O | H2O
product | Boc Sarcosine | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
